### PR TITLE
[Merged by Bors] - feat(Topology/Inseparable): Define `specializing` maps between topological spaces

### PR DESCRIPTION
**Pull request by erdOne**
A port of https://github.com/leanprover-community/mathlib/pull/17113

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Inseparable.lean [hunk 1]
```diff
@@ -228,12 +228,205 @@ theorem IsClosed.continuous_piecewise_of_specializes [DecidablePred (· ∈ s)]
...
   simpa only [piecewise_compl] using hs.isOpen_compl.continuous_piecewise_of_specializes hg hf hspec
 
+attribute [local instance] specializationPreorder
+
 /-- A continuous function is monotone with respect to the specialization preorders on the domain and
 the codomain. -/
-theorem Continuous.specialization_monotone (hf : Continuous f) :
-    @Monotone _ _ (specializationPreorder X) (specializationPreorder Y) f := fun _ _ h => h.map hf
+theorem Continuous.specialization_monotone (hf : Continuous f) : Monotone f :=
+fun _ _ h => h.map hf
```
Comment (alreadydone) [inline Mathlib/Topology/Inseparable.lean:236]:
```suggestion
  fun _ _ h => h.map hf
```
and (almost) everywhere below
(I don't think term-mode proof/defs are exempt from indentation ...)

File: Mathlib/Order/UpperLower/Basic.lean [hunk 2]
```diff
@@ -1658,6 +1705,14 @@ protected alias ⟨BddBelow.of_upperClosure, BddBelow.upperClosure⟩ := bddBelo
 @[simp] lemma IsUpperSet.disjoint_lowerClosure_right (hs : IsUpperSet s) :
     Disjoint s (lowerClosure t) ↔ Disjoint s t := hs.toDual.disjoint_upperClosure_right
 
+@[simp] lemma upperClosure_eq :
+  ↑(upperClosure s) = s ↔ IsUpperSet s :=
+⟨(· ▸ UpperSet.upper _), IsUpperSet.upperClosure⟩
+
+@[simp] lemma lowerClosure_eq :
+  ↑(lowerClosure s) = s ↔ IsLowerSet s :=
+@upperClosure_eq αᵒᵈ _ _
```
Comment (alreadydone) [inline Mathlib/Order/UpperLower/Basic.lean:1714]:
```suggestion
@[simp] lemma upperClosure_eq :
    ↑(upperClosure s) = s ↔ IsUpperSet s :=
  ⟨(· ▸ UpperSet.upper _), IsUpperSet.upperClosure⟩

@[simp] lemma lowerClosure_eq :
    ↑(lowerClosure s) = s ↔ IsLowerSet s :=
  @upperClosure_eq αᵒᵈ _ _
```

File: Mathlib/Order/UpperLower/Basic.lean [hunk 3]
```diff
@@ -439,6 +439,53 @@ theorem isLowerSet_iff_Iio_subset : IsLowerSet s ↔ ∀ ⦃a⦄, a ∈ s → Ii
...
+
+lemma Fibration.isLowerSet_image [LE α] [LE β] (hf : Fibration (· ≤ ·) (· ≤ ·) f)
+    {s : Set α} (hs : IsLowerSet s) : IsLowerSet (f '' s) := by
+  rintro _ y' e ⟨x, hx, rfl⟩; obtain ⟨y, e', rfl⟩ := hf e; exact ⟨_, hs e' hx, rfl⟩
+
+alias _root_.IsLowerSet.image_fibration := Fibration.isLowerSet_image
+
+lemma fibration_iff_isLowerSet_image_Iic [Preorder α] [LE β] :
+    Fibration (· ≤ ·) (· ≤ ·) f ↔ ∀ x, IsLowerSet (f '' Iic x) :=
+⟨fun h x ↦ (isLowerSet_Iic x).image_fibration h, fun H x _ e ↦ H x e ⟨x, le_rfl, rfl⟩⟩
```
Comment (alreadydone) [inline Mathlib/Order/UpperLower/Basic.lean:456]:
```suggestion
  ⟨fun h x ↦ (isLowerSet_Iic x).image_fibration h, fun H x _ e ↦ H x e ⟨x, le_rfl, rfl⟩⟩
```
and everywhere below

**Comment by alreadydone** [comment]
Since I approved the mathlib3 PR, I'd approve this too once indentation is fixed.

File: Mathlib/Topology/Inseparable.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Topology/Inseparable.lean:236]: I thought tactics were indented because they were in a `by`-block, and terms are not in a block? 
I'll indent them anyway.

File: Mathlib/Topology/Inseparable.lean [hunk 4]
```diff
@@ -228,12 +228,205 @@ theorem IsClosed.continuous_piecewise_of_specializes [DecidablePred (· ∈ s)]
...
+
+lemma specializingMap_iff_closure_singleton_subset :
+    SpecializingMap f ↔ ∀ x, closure {f x} ⊆ f '' closure {x} := by
+  simp only [SpecializingMap, Relation.Fibration, flip, specializes_iff_mem_closure]; rfl
+
+alias ⟨SpecializingMap.closure_singleton_subset, _⟩ := specializingMap_iff_closure_singleton_subset
+
+lemma SpecializingMap.stableUnderSpecialization_image (hf : SpecializingMap f)
+    {s : Set X} (hs : StableUnderSpecialization s) : StableUnderSpecialization (f '' s) :=
+IsLowerSet.image_fibration hf hs
```
Comment (alreadydone) [inline Mathlib/Topology/Inseparable.lean:369]: indent

File: Mathlib/Topology/Inseparable.lean [hunk 5]
```diff
@@ -228,12 +228,205 @@ theorem IsClosed.continuous_piecewise_of_specializes [DecidablePred (· ∈ s)]
...
+
+alias StableUnderSpecialization.image := SpecializingMap.stableUnderSpecialization_image
+
+lemma specializingMap_iff_stableUnderSpecialization_image_singleton :
+    SpecializingMap f ↔ ∀ x, StableUnderSpecialization (f '' closure {x}) := by
+  simpa only [closure_singleton_eq_Iic] using Relation.fibration_iff_isLowerSet_image_Iic
+
+lemma specializingMap_iff_stableUnderSpecialization_image :
+    SpecializingMap f ↔ ∀ s, StableUnderSpecialization s → StableUnderSpecialization (f '' s) :=
+Relation.fibration_iff_isLowerSet_image
```
Comment (alreadydone) [inline Mathlib/Topology/Inseparable.lean:379]: indent

File: Mathlib/Topology/Inseparable.lean [hunk 6]
```diff
@@ -228,12 +228,205 @@ theorem IsClosed.continuous_piecewise_of_specializes [DecidablePred (· ∈ s)]
...
+lemma specializingMap_iff_isClosed_image_closure_singleton (hf : Continuous f) :
+    SpecializingMap f ↔ ∀ x, IsClosed (f '' closure {x}) := by
+  refine ⟨fun h x ↦ ?_, fun h ↦ specializingMap_iff_stableUnderSpecialization_image_singleton.mpr
+    (fun x ↦ (h x).stableUnderSpecialization)⟩
+  rw [(specializingMap_iff_closure_singleton hf).mp h x]
+  exact isClosed_closure
+
+lemma IsClosedMap.specializingMap (hf : IsClosedMap f) : SpecializingMap f :=
+specializingMap_iff_stableUnderSpecialization_image_singleton.mpr $
+  fun _ ↦ (hf _ isClosed_closure).stableUnderSpecialization
```
Comment (alreadydone) [inline Mathlib/Topology/Inseparable.lean:395]: indent

File: Mathlib/Topology/Inseparable.lean [hunk 7]
```diff
@@ -228,12 +228,205 @@ theorem IsClosed.continuous_piecewise_of_specializes [DecidablePred (· ∈ s)]
...
+
+lemma GeneralizingMap_iff_stableUnderGeneralization_image :
+    GeneralizingMap f ↔ ∀ s, StableUnderGeneralization s → StableUnderGeneralization (f '' s) :=
+  Relation.fibration_iff_isUpperSet_image
+
+alias StableUnderGeneralization.image := GeneralizingMap.stableUnderGeneralization_image
+
+lemma GeneralizingMap.stableUnderGeneralization_range (h : GeneralizingMap f) :
+    StableUnderGeneralization (range f) :=
+@image_univ _ _ f ▸ stableUnderGeneralization_univ.image h
```
Comment (alreadydone) [inline Mathlib/Topology/Inseparable.lean:428]: indent

**Review by alreadydone — COMMENTED** [review]
You're close, just four are remaining!

File: Mathlib/Topology/Inseparable.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Topology/Inseparable.lean:395]:
```suggestion
lemma IsClosedMap.specializingMap (hf : IsClosedMap f) : SpecializingMap f :=
  specializingMap_iff_stableUnderSpecialization_image_singleton.mpr <|
    fun _ ↦ (hf _ isClosed_closure).stableUnderSpecialization
```

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

**Comment by semorrison** [comment]
bors merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
